US05021441
(1)(i) 3-(Benzylthio)-propionitrile
Acrylonitrile (21.4 g) was added dropwise to a solution of benzyl mercaptan (49.6 g) and triethylamine (4 ml) in methanol (400 ml). This addition lead to an exothermic reaction and the temperature of the reaction mixture was allowed to rise from room temperature to 35° C. After 10 minutes the reaction was almost complete as shown by TLC, there being a trace of unreacted thiol still present. Additional acrylonitrile (0.5 g) was then added to consume the last of the thiol. After a further 10 minutes the solution was evaporated to give the title compound 69.0 g as a pale yellow oil.

reactant | Acrylonitrile | 21.4 g | C(C=C)#N | C3H3N
reactant | benzyl mercaptan | 49.6 g | C(C1=CC=CC=C1)S | C7H8S
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 400 ml | CO | CH4O
catalyst | acrylonitrile | 0.5 g | C(C=C)#N | C3H3N
product | 3-(Benzylthio)-propionitrile | 69.0 g | C(C1=CC=CC=C1)SCCC#N | C10H11NS
